### PR TITLE
feat: add `BitVec.[getMsbD_mul, getElem_udiv, getLsbD_udiv, getMsbD_udiv]`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorems `BitVec.[getMsbD_mul, getElem_udiv, getLsbD_udiv, getMsbD_udiv]`

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1084,6 +1091,21 @@ theorem divRec_succ' (m : Nat) (args : DivModArgs w) (qr : DivModState w) :
...
+  rw [udiv_eq_divRec (by assumption)]
+
+theorem getLsbD_udiv (n d : BitVec w) (hy : 0#w < d)  (i : Nat) :
+    (n / d).getLsbD i = (decide (i < w) && (divRec w {n, d} (DivModState.init w)).q.getLsbD i) := by
+  by_cases hi : i < w
+  · simp only [udiv_eq_divRec (by assumption), Bool.iff_and_self, decide_eq_true_eq]
+    omega
+  · simp_all
+
+theorem getMsbD_udiv (n d : BitVec w) (hy : 0#w < d)  (i : Nat) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1105]:
```suggestion
theorem getMsbD_udiv (n d : BitVec w) (hd : 0#w < d)  (i : Nat) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -1084,6 +1091,21 @@ theorem divRec_succ' (m : Nat) (args : DivModArgs w) (qr : DivModState w) :
     divRec m args input := by
   simp [divRec_succ, divSubtractShift]
 
+theorem getElem_udiv (n d : BitVec w) (hy : 0#w < d) (i : Nat) (hi : i < w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1094]:
```suggestion
theorem getElem_udiv (n d : BitVec w) (hd : 0#w < d) (i : Nat) (hi : i < w) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1084,6 +1091,21 @@ theorem divRec_succ' (m : Nat) (args : DivModArgs w) (qr : DivModState w) :
...
+    (n / d)[i] = (divRec w {n, d} (DivModState.init w)).q[i] := by
+  rw [udiv_eq_divRec (by assumption)]
+
+theorem getLsbD_udiv (n d : BitVec w) (hy : 0#w < d)  (i : Nat) :
+    (n / d).getLsbD i = (decide (i < w) && (divRec w {n, d} (DivModState.init w)).q.getLsbD i) := by
+  by_cases hi : i < w
+  · simp only [udiv_eq_divRec (by assumption), Bool.iff_and_self, decide_eq_true_eq]
+    omega
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1102]:
```suggestion
  · simp; omega
```

Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: @bollu this unexpectedly broke build, had to specify `udiv_eq_divRec` version
